US06936715B2
6.1. tert-butyl 4-(2-methyl-4-nitrophenyl)-1-piperazinecarboxylate
4.65 g (3.10 mmol) of 2-fluoro-5-nitrotoluene, 6.71 g (3.60 mmol) of tert-butyl 1-piperazinecarboxylate and 10.4 g (7.50 mmol) of potassium carbonate are solubilized under an argon atmosphere, in dry DMF (50 ml), then the reaction medium is taken to 80° C. for 18 hours. The reaction medium is then cooled down using an ice bath then poured into ice-cold water. The product is extracted using 3 times 50 ml of ethyl acetate. The organic solution is dried over magnesium sulphate, followed by filtration and concentration under vacuum. Purification is then carried out by crystallization from diisopropyl ether and the solid obtained is filtered and rinsed with isopentane in order to obtain, after drying, 5.9 g of a yellow solid product (yield 62%). Melting point: 121.8-123.4° C.

reactant | 2-fluoro-5-nitrotoluene | 3.10 mmol, 4.65 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | tert-butyl 1-piperazinecarboxylate | 3.60 mmol, 6.71 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 7.50 mmol, 10.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2-methyl-4-nitrophenyl)-1-piperazinecarboxylate | yield 62% | CC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C16H23N3O4
